US07053057B2
(S)-Piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester
To a stirred suspension of (S)-piperidine-2-carboxylic acid methyl ester hydrochloride salt (5.0 g, 27.8 mmol) in dichloromethane (DCM) (35 mL ) at 0° C. was added diisopropylethylamine (DIPEA) (10.1 mL, 58.4 mmol) followed by N-(benzyloxycarbonyloxy)succinimide (7.63 g, 30.6 mmol). The reaction mixture was allowed to warm to room temperature and stirred overnight. The residue was diluted with DCM and washed with 1.0-M HCl. The organic layer was washed with brine, dried(Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (20% ethyl acetate in hexane) to afford the title compound as a pale yellow oil (7.72, 100%): 1H NMR (400 MHz, CD3OD) δ 1.19–1.88 (5H, m), 2.15–2.28 (1H, m), 2.91–3.12 (1H, m), 3.70–3.73 (3H, 2s), 4.00–4.07 (1H, m), 4.82–4.87 (1H, m), 5.03–5.21 (2H, m), 7.24–7.39 (5H, m); 13C NMR (100 MHz, CD3OD) δ 22.0, 22.1 (CH2), 26.0, 26.1 (CH2), 28.1 (CH2), 43.4, 43.5 (CH2), 53.1 (CH3), 56.2, 56.5 (CH), 68.8, 68.9 (CH2), 129.2 (CH), 129.5 (CH), 129.9 (CH), 138.4 (C), 167.0 (CO), 173.7 (CO).

reactant | (S)-piperidine-2-carboxylic acid methyl ester hydrochloride salt | 27.8 mmol, 5.0 g | Cl.COC(=O)[C@H]1NCCCC1
reactant | diisopropylethylamine | 58.4 mmol, 10.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(benzyloxycarbonyloxy)succinimide | 30.6 mmol, 7.63 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | (S)-Piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester | 100% | COC(=O)[C@H]1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C15H19NO4
